US08426411B2
A solution of ethyl 2-chloro-3-oxopropanoate (1.60 g, 7.65 mmol, prepared as described in US2009005359A1) and 1,4-dioxane (10.0 mL) was added to 5-tosyl-5H-pyrrolo[3,2-b]pyrazin-2-amine (1.45 g, 5.03 mmol, Preparation #E.1.1) under nitrogen. Anhydrous butan-1-ol (30.0 mL) was added, a reflux condenser was attached, and the system was sealed. After about 30 min, the mixture was warmed to about 80° C. The solution was allowed to cool to ambient temperature. A solution of ethyl 2-chloro-3-oxopropanoate (2.78 g, 13.3 mmol) and 1,4-dioxane (5 mL) was added. After about 30 min, the reaction mixture was warmed to about 80° C. After about 30 min, the mixture was warmed to about 125° C. After about 48 h, the brown solution was allowed to cool to ambient temperature. The volatiles were removed under reduced pressure. The residue was purified by silica gel chromatography eluting with a gradient of 5-50% EtOAc in heptane to give ethyl 3-tosyl-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine-8-carboxylate (1.16 g, 60%): LC/MS (Table 1, Method b) Rt=2.52 min; MS m/z 385 (M+H)+.

reactant | ethyl 2-chloro-3-oxopropanoate | 7.65 mmol, 1.60 g | ClC(C(=O)OCC)C=O | C5H7ClO3
reactant | 5-tosyl-5H-pyrrolo[3,2-b]pyrazin-2-amine | 5.03 mmol, 1.45 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=NC(=CN=C21)N | C13H12N4O2S
reactant | butan-1-ol | 30.0 mL | C(CCC)O | C4H10O
reactant | ethyl 2-chloro-3-oxopropanoate | 13.3 mmol, 2.78 g | ClC(C(=O)OCC)C=O | C5H7ClO3
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
product | ethyl 3-tosyl-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine-8-carboxylate | 1.16 g, 60% | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C1N=CC=1N2C(=CN1)C(=O)OCC | C18H16N4O4S
